US07476666B2
Step 6: N-(4-fluorobenzyl)-3-hydroxy-5-methyl-4-oxo-4,5-dihydropyrazolo[1,5-a]quinoxaline-2-carboxamide
To a solution of N-(4-fluorobenzyl)-3-methoxy-5-methyl-4-oxo-4,5-dihydropyrazolo[1,5-a]quinoxaline-2-carboxamide (85 mg, 0.22 mmol) in AcOH (1 mL) was added 30% HBr in AcOH (2 mL). The mixture was stirred and warmed to 50° C. for 8 hours. The solvent was removed under reduced pressure. The residue was triturated in AcOH to give the title compound as a white solid. 1H NMR (400 MHz, d6-DMSO) δ 9.82 (br s, 1H), 9.06 (t, J=6.0 Hz, 1H), 8.20 (d, J=8.0 Hz, 1H), 7.58 (d, J=7.8 Hz, 1H), 7.51 (t, J=7.8 Hz, 1H), 7.38-7.43 (m, 3H), 7.17 (t, J=9.0 Hz, 2H), 4.50 (d, J=6.2 Hz, 2H), 4.02 (s, 3H), 3.57 (s, 3H); ES MS (M+1)=367.

reactant | N-(4-fluorobenzyl)-3-methoxy-5-methyl-4-oxo-4,5-dihydropyrazolo[1,5-a]quinoxaline-2-carboxamide | 0.22 mmol, 85 mg | FC1=CC=C(CNC(=O)C2=NN3C(C(N(C4=CC=CC=C34)C)=O)=C2OC)C=C1 | C20H17FN4O3
reactant | HBr | Br | BrH
solvent | AcOH | 1 mL | CC(=O)O | C2H4O2
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
product | N-(4-fluorobenzyl)-3-hydroxy-5-methyl-4-oxo-4,5-dihydropyrazolo[1,5-a]quinoxaline-2-carboxamide | FC1=CC=C(CNC(=O)C2=NN3C(C(N(C4=CC=CC=C34)C)=O)=C2O)C=C1 | C19H15FN4O3
